US08975254B2
b) (S)-4-(1-(2-aminopropyl)-4-chloro-1H-pyrazol-3-yl)-2-chlorobenzonitrile
The title compound was prepared from 2-chloro-4-(4-chloro-1H-pyrazol-5-yl)benzonitrile (0.690 g, 2.9 mmol), (S)-tert-butyl 1-hydroxypropan-2-ylcarbamate (0.508 g, 2.9), triphenylphosphine (1.14 g, 4.35 mmol) and di-tert-butyl azodicarboxylate (1 g, 4.35 mmol) using the method of Example 34(c). Yield 0.518 g. 1H NMR (400 MHz; CDCl3): δ 1.16 (d, 3H), 1.32 (bs, 2H), 3.47 (m, 1H), 3.88 (dd, 1H), 4.09 (dd, 1H), 7.56 (s, 1H), 7.69 (d, 1H), 7.99 (dd, 1H), 8.13 (d, 1H).

reactant | 2-chloro-4-(4-chloro-1H-pyrazol-5-yl)benzonitrile | 2.9 mmol, 0.690 g | ClC1=C(C#N)C=CC(=C1)C1=C(C=NN1)Cl | C10H5Cl2N3
reactant | (S)-tert-butyl 1-hydroxypropan-2-ylcarbamate | 0.508 g | OC[C@H](C)NC(OC(C)(C)C)=O | C8H17NO3
reactant | triphenylphosphine | 4.35 mmol, 1.14 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butyl azodicarboxylate | 4.35 mmol, 1 g | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
product | (S)-4-(1-(2-aminopropyl)-4-chloro-1H-pyrazol-3-yl)-2-chlorobenzonitrile | N[C@H](CN1N=C(C(=C1)Cl)C1=CC(=C(C#N)C=C1)Cl)C | C13H12Cl2N4
